US07199135B2
N-(3-{4-[4-FLUORO-3-(ISOBUTYRYLAMINO)PHENYL]-1-PIPERIDINYL}PROPYL)-2-(4-FLUOROPHENYL)PROPANAMIDE:
Example 46 was prepared from 2-(4-fluoro phenyl)propanoic acid and N-{5-[1-(3-aminopropyl)-4-piperidinyl]-2-fluorophenyl}-2-methyl propanamide according to the procedures described in Scheme 9: 1H NMR (400 MHz, CDCl3) δ 8.38–8.23 (m, 1H), 7.48–7.27 (m, 3H), 7.13–6.94 (m, 4H), 6.94–6.82 (m, 1H), 3.62–3.46 (m, 1H), 3.41–3.26 (m, 2H), 3.17–3.03 (m, 1H), 3.02–2.91 (m, 1H), 2.67–2.35 (m, 4H), 2.24–1.97 (m, 2H), 1.95–1.62 (m, 6H), 1.49 (d, 3H, J=7.2 Hz), 1.27 (d, 6H, J=6.8 Hz); ESMS m/e: 472.4 (M+H)+.

reactant | 2-(4-fluoro phenyl)propanoic acid | FC1=CC=C(C=C1)C(C(=O)O)C | C9H9FO2
reactant | N-{5-[1-(3-aminopropyl)-4-piperidinyl]-2-fluorophenyl}-2-methyl propanamide | NCCCN1CCC(CC1)C=1C=CC(=C(C1)NC(C(C)C)=O)F | C18H28FN3O
product | N-(3-{4-[4-FLUORO-3-(ISOBUTYRYLAMINO)PHENYL]-1-PIPERIDINYL}PROPYL)-2-(4-FLUOROPHENYL)PROPANAMIDE | FC1=C(C=C(C=C1)C1CCN(CC1)CCCNC(C(C)C1=CC=C(C=C1)F)=O)NC(C(C)C)=O | C27H35F2N3O2
